US07199120B2
A solution of crude 4-[2-(2-fluoro-4-pyridinyl)pyrazolo[1,5-a]pyridin-3-yl]-N-isopropyl-2-pyrimidinamine (204 mg, 0.586 mmol) in cyclopentylamine (2 mL, 20.3 mmol) was heated at 135° C. in a sealed glass tube for 16 hours. The reaction mixture was cooled and the excess cyclopentylamine was removed in vacuo. The resultant residue was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate solution. The organic layer was washed with brine and dried over magnesium sulfate. Filtration and concentration, followed by flash chromatography (1:1 hexanes:ethyl acetate to 100% ethyl acetate) provided N-cyclopentyl-N-(4-{3-[2-(isopropylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}-2-pyridinyl)amine (155 mg, 640%). Rf 0.16 (1:2 hexanes:ethyl acetate); 1H NMR (CDCl3) δ 8.49 (d, 1H), 8.39 (d, 1H), 8.13–8.08 (m, 2H), 7.29 (t, 1H), 6.89 (t, 1H), 6.80 (d, 1H), 6.63 (s, 1H), 6.46 (d, 1H), 5.23 (br, 1H), 4.86 (d, 1H), 4.21 (m, 1H), 3.93 (m, 1H), 1.95 (m, 2H), 1.70–1.42 (m, 6H), 1.27 (d, 6H); MS m/z 414 (M+1).

reactant | 4-[2-(2-fluoro-4-pyridinyl)pyrazolo[1,5-a]pyridin-3-yl]-N-isopropyl-2-pyrimidinamine | 0.586 mmol, 204 mg | FC1=NC=CC(=C1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)NC(C)C | C19H17FN6
reactant | cyclopentylamine | 20.3 mmol, 2 mL | C1(CCCC1)N | C5H11N
product | N-cyclopentyl-N-(4-{3-[2-(isopropylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}-2-pyridinyl)amine | 155 mg, 640% | C1(CCCC1)NC1=NC=CC(=C1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)NC(C)C | C24H27N7
